### PR TITLE
List Validator Equivocation.

### PR DESCRIPTION
**Pull request by mcalancea**
- Add more useful definitions and properties for Equivocation in List Validators.

### CODE REVIEW

File: Lib/ListExtras.v [hunk 1]
```diff
@@ -1219,4 +1237,116 @@ Proof.
          exists needle.
          split;
          assumption.
-Qed.
\ No newline at end of file
+Qed.
+
+(* Transitive isn't necessary but makes the proof simpler. *)
+
+Lemma lsorted_app
```
Comment (traiansf) [inline Lib/ListExtras.v:1244]: Could you move these (and the corresponding imports) in SortedListsExtras ?

File: VLSM/ListValidator/Equivocation.v [hunk 2]
```diff
@@ -2267,4 +2690,268 @@ Context
...
+      rewrite Heqhistory.
+      apply get_history_self_Lsorted_le.
+      assumption.
+      specialize (H state_gt_tran s1 s2 Hs1 Hs2).
+      unfold state_gt in H.
+      intuition.
+    Qed.
+    
+    Existing Instance state_lt_equivocation.
+    (*
```
Comment (traiansf) [inline VLSM/ListValidator/Equivocation.v:2864]: Are you still coming back to  this later?  If not, maybe it's not good to leave it as a comment here.

**Review by traiansf — APPROVED** [review]
looks reasonable to me. Please try to address the comments I left.
